US06987114B1
1-(3,5-Dichlorobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3,5-dichlorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (283 mg, yield: 63.6%).

reactant | 5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 3,5-dichlorobenzyl bromide | ClC=1C=C(CBr)C=C(C1)Cl | C7H5BrCl2
product | 1-(3,5-Dichlorobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 283 mg, yield: 63.6% | ClC=1C=C(CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)C(C)C)=O)=O)C=C(C1)Cl | C23H22Cl2N2O3
